US07439232B2
Next, to a solution of 2-bromo-3-[2-(triethylsilyl)ethoxymethoxy]pyridine (2.0 g, 6.57 mmol) in THF (22 mL), a 1.47 M n-pentane solution of tert-butyllithium (9.6 mL, 14.1 mmol) was slowly added dropwise at −78° C. After 20 minutes, a solution of 4-ethylbenzaldehyde (1.0 g, 7.45 mmol) in THF (5 mL) was added dropwise to the reaction mixture. After stirring at −78° C. for 10 minutes, the reaction mixture was warmed to room temperature and saturated aqueous ammonium chloride was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 4-ethylphenyl-[3-[2-(triethylsilyl)ethoxymethoxy]]pyridin-2-yl-methanol (0.89 g, 38%).

reactant | 2-bromo-3-[2-(triethylsilyl)ethoxymethoxy]pyridine | 6.57 mmol, 2.0 g | BrC1=NC=CC=C1OCOCC[Si](CC)(CC)CC | C14H24BrNO2Si
reactant | tert-butyllithium | 14.1 mmol, 9.6 mL | C(C)(C)(C)[Li]
reactant | 4-ethylbenzaldehyde | 7.45 mmol, 1.0 g | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | n-pentane | 1.47 M | CCCCC | C5H12
product | 4-ethylphenyl-[3-[2-(triethylsilyl)ethoxymethoxy]]pyridin-2-yl-methanol | 0.89 g, 38% | C(C)C1=CC=C(C=C1)C(O)C1=NC=CC=C1OCOCC[Si](CC)(CC)CC | C23H35NO3Si
